* Parametric CMOS Inverter Netlist

.incl tsmc18.sp

* Parameters
.param Wp=0.3u
.param Lp=0.2u
.param Wn=5u
.param Lnch=0.3u
.param Cl=100f

* Area and Perimeter Calculations
* PMOS parameters
.param ad_p=Wp*Lp
.param as_p=Wp*Lp
.param pd_p=2*(Wp+Lp)
.param ps_p=2*(Wp+Lp)

* NMOS parameters
.param ad_n=Wn*Lnch
.param as_n=Wn*Lnch
.param pd_n=2*(Wn+Lnch)
.param ps_n=2*(Wn+Lnch)

* Power supply
VDD vdd 0 1.8

* Input pulse
Vin in 0 PULSE(0 1.8 1n 50p 50p 2n 4n)

* PMOS (M1)
M1 out in vdd vdd cmosp W={Wp} L={Lp}

* NMOS (M2)
M2 out in 0 0 cmosn W={Wn} L={Lnch}

* Load Capacitance
Cload out 0 {Cl}

* Simulation control (example: transient analysis)
*.tran 0.1n 10n

* Propagation delay measurements
* tplh: output rising (0 -> 1), input falling (1 -> 0)
*.measure tran tplh TRIG V(in) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 RISE=1

* tphl: output falling (1 -> 0), input rising (0 -> 1)
*.measure tran tphl TRIG V(in) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 FALL=1

*Measure PMOS Parameters
*.measure PARAMVAL PARAM='ad_p'

.control
tran 0.1n 7n
* Plotting/Printing
*.print tran V(in) V(out)
* Or, for some SPICE variants:
* plot tran(V(out),V(in))
plot v(in) v(out)


.endc
.end
